US08012980B2
a) 6-Bromoisoquinolin-1(2H)-one
A solution of 4-bromo-2-methylbenzonitrile (26 g) dissolved in 1-tert-butoxy-N,N,N′,N′-tetramethylmethanediamine (47.9 mL) was stirred at 140° C. for 2 h (flask open to evaporate t-butanol). The reaction mixture was cooled to room temperature, diluted with water (600 mL), and extracted with ethyl acetate (500 mL). The aqueous was further extracted with ethyl acetate (250 mL), the combined organics were washed with water (500 mL), brine (150 mL), dried (MgSO4) filtered and evaporated. The residual oil was dissolved in ethanol (250 mL) at 80° C. and treated with 37% hydrochloric acid (250 mL) at such a rate as to maintain a solution. The reaction mixture was stirred at 110° C. for 3 h, cooled to room temperature, diluted with water (600 mL) and the resulting suspension stirred for 2 h and filtered. The filtered solid was slurried in diethyl ether (400 mL) for 2 h, filtered and dried to give the subtitle compound (26.4 g) as a solid.

reactant | 4-bromo-2-methylbenzonitrile | 26 g | BrC1=CC(=C(C#N)C=C1)C | C8H6BrN
reactant | 1-tert-butoxy-N,N,N′,N′-tetramethylmethanediamine | 47.9 mL | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 6-Bromoisoquinolin-1(2H)-one | 26.4 g | BrC=1C=C2C=CNC(C2=CC1)=O | C9H6BrNO
